US08609688B2
Synthesis of N-(3-{3-[4-(1-aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)tetrahydro-2H-pyran-4-carboxamide hydrochloride
To a solution of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(tetrahydro-2H-pyran-4-ylcarbonyl)amino]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (29 mg) in dichloromethane (4 mL) was added trifluoroacetic acid (1 mL) dropwise at room temperature. After being stirred at the same temperature for 1 h, the reaction mixture was concentrated under reduced pressure. Dichloromethane (5 mL) and MP-carbonate (Argonaout technologies 2.91 mmol/g, 400 mg) were added. The mixture was stayed for 30 min. with occasional shaking then filtered. The filtrate was concentrated under reduced pressure. To a solution of the residue in dichloromethane (5 mL) and methanol (0.4 mL) was added hydrogen chloride in ethyl acetate (4 M, 0.055 mL) at room temperature. After being stirred for 10 min., the mixture was concentrated under reduced pressure. The resulting solid was suspended with ethyl acetate and filtered to give the product (19 mg).

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[(tetrahydro-2H-pyran-4-ylcarbonyl)amino]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 29 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)NC(=O)C2CCOCC2)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C38H41N7O4
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-(3-{3-[4-(1-aminocyclobutyl)phenyl]-2-(2-aminopyridin-3-yl)-3H-imidazo[4,5-b]pyridin-5-yl}phenyl)tetrahydro-2H-pyran-4-carboxamide hydrochloride | 19 mg | Cl.NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C=2C=C(C=CC2)NC(=O)C2CCOCC2)C=2C(=NC=CC2)N | InChI=1S/C33H33N7O2.ClH/c34-29-26(6-2-17-36-29)30-39-28-12-11-27(22-4-1-5-24(20-22)37-32(41)21-13-18-42-19-14-21)38-31(28)40(30)25-9-7-23(8-10-25)33(35)15-3-16-33;/h1-2,4-12,17,20-21H,3,13-16,18-19,35H2,(H2,34,36)(H,37,41);1H
